US09108938B2
2-chloro-3-fluoro-N-(2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethyl)benzamide
From 2-chloro-3-fluorobenzoic acid and 2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethanamine.

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | 2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethanamine | CC1=NC=C(C=N1)C(CN)N1CCOCCC1 | C12H20N4O
product | 2-chloro-3-fluoro-N-(2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(N2CCOCCC2)C=2C=NC(=NC2)C)C=CC=C1F | C19H22ClFN4O2
